US06204282B1
2-(Aminomethyl)benzimidazole
Add 2-(aminomethyl)benzimidazole, dihydrochloride, hydrate (18.50 g) to a solution of potassium hydroxide (9.50 g) in methanol (400 mL). Stir the resulting mixture at room temperature for 30 minutes, filter, and concentrate the filtrate in vacuo. Extract the residue with EtOAc (5×500 mL) and filter. Concentrate the filtrate in vacuo to give the title compound as a white solid (9.60 g).

reactant | 2-(aminomethyl)benzimidazole, dihydrochloride | Cl.Cl.NCC=1NC2=C(N1)C=CC=C2
reactant | potassium hydroxide | 9.50 g | [OH-].[K+]
solvent | methanol | 400 mL | CO | CH4O
product | 2-(Aminomethyl)benzimidazole | 9.60 g | NCC=1NC2=C(N1)C=CC=C2 | C8H9N3
